* c:\users\pc\esim-workspace\sawtooth\sawtooth.cir

.include lm_741.sub
.include D.lib
x1 ? gnd net-_r1-pad2_ net-_x1-pad4_ ? out1 net-_x1-pad7_ ? lm_741
x2 ? net-_c1-pad2_ gnd net-_x1-pad4_ ? out2 net-_x1-pad7_ ? lm_741
r3  net-_d2-pad2_ net-_c1-pad2_ 5k
r2  net-_r1-pad2_ out2 40k
r1  out1 net-_r1-pad2_ 100k
r4  net-_d1-pad1_ net-_c1-pad2_ 40k
v2  gnd net-_x1-pad4_ 15v
v1  net-_x1-pad7_ gnd 15v
d2 out1 net-_d2-pad2_ 1N4148
d1 net-_d1-pad1_ out1 1N4148
c1  out2 net-_c1-pad2_ 500nf
* u2  out2 plot_v1
* u1  out1 plot_v1
.tran 0.01e-03 30e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out2)
plot v(out1)
.endc
.end
