* c:\users\pc\esim-workspace\triangular\triangular.cir

.include lm_741.sub
x1 ? gnd net-_r1-pad1_ net-_x1-pad4_ ? out1 net-_x1-pad7_ ? lm_741
x2 ? net-_c1-pad2_ gnd net-_x1-pad4_ ? out2 net-_x1-pad7_ ? lm_741
v1  gnd net-_x1-pad4_ 14v
v2  net-_x1-pad7_ gnd 14v
r2  net-_r1-pad1_ out1 1k
r3  out1 net-_c1-pad2_ 10k
r1  net-_r1-pad1_ out2 180
* u2  out2 plot_v1
* u1  out1 plot_v1
c1  out2 net-_c1-pad2_ 47n
.tran 10e-06 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out2)
plot v(out1)
.endc
.end
